US05914328
49a. 3-((4methoxymethyl-1-methyl-5-oxo-2-(S)-pyrrolidinyl)methoxy)-pyridine
A 327 mg (139 mmmol) sample of 3-(1-methyl-4hydroxymethyl-5-oxo-2(S)-pyrrolidinylmethoxy)pyridine, prepared as in Example 48a above, was dissolved in 13 mL of anhydrous THF, 111 mg (2.77 mmol) of NaH was added, and the mixture was stirred for 30 minutes at room temperature. To this solution was added 258 mL (4.17 mmol) of methyl iodide and 256 mg of tetrabutylammomnum iodide, and the reaction was stirred at room temperature for 2 hours. The reaction was quenched by the addition of water, and the mixture was extracted with chloroform. The extract was dried over MgSO4, filtered and concentrated. The solvent was removed, and the residue was purified by column chromatography on silica gel, eluting with 10: 1 chloroform:methanol to give 314 mg of the title compound. MS (DCI/NH3) m/e: 251 (M+H)+. 1H NMR (CDCl3, 300 MHz) δ: 8.37-8.25 (m, 2H), 7.35-7.25 (m, 2H), 4.18-4.0 (m, 2H), 3.99-3.84 (m, 1H), 3.73-3.58 (m, 2H), 3.37 (s, 2H), 3.36 (s, 1H), 3.05 (s, 1H), 2.95 (s, 1H), 2.94 (s, 1H), 2.90-2.63 (m, 1H), 2.49-2.24 (m, 2H).

reactant | 3-(1-methyl-4hydroxymethyl-5-oxo-2(S)-pyrrolidinylmethoxy)pyridine | CN1[C@@H](CC(C1=O)CO)COC=1C=NC=CC1 | C12H16N2O3
reactant | NaH | 2.77 mmol, 111 mg | [H-].[Na+]
reactant | methyl iodide | 4.17 mmol, 258 mL | CI | CH3I
reactant | iodide | 256 mg | [I-]
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 3-((4methoxymethyl-1-methyl-5-oxo-2-(S)-pyrrolidinyl)methoxy)-pyridine | 314 mg | COCC1C[C@H](N(C1=O)C)COC=1C=NC=CC1 | C13H18N2O3
